US09192624B2
To the poly-L-alanine/Nε-benzyloxycarbonyl-L-lysine copolymer (9/1) obtained in Production Example 16 were added 270 equivalents and 5 equivalents of trifluoroacetic acid (manufactured by TOKYO CHEMICAL INDUSTRY CO., LTD.) and thioanisole (manufactured by TOKYO CHEMICAL INDUSTRY CO., LTD.), respectively, relative to the number of moles of N-carboxy-N′-benzyloxycarbonyl-L-lysine anhydride, and the mixture was reacted at room temperature to give a poly-L-alanine/L-lysine copolymer. This was dissolved in a dichloromethane-trifluoroacetic acid mixed solvent (50:70 (v/v)) to give a 4.4 wt % poly-L-alanine/L-lysine copolymer solution. A fiber structure made of a poly-L-alanine/L-lysine copolymer was obtained from this solution in the same manner as in Production Example 1.

reactant | poly-L-alanine Nε-benzyloxycarbonyl-L-lysine | C[C@@H](C(=O)O)N.C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O
reactant | trifluoroacetic acid | 5 equivalents | FC(C(=O)O)(F)F | C2HF3O2
reactant | thioanisole | C1(=CC=CC=C1)SC | C7H8S
reactant | N-carboxy-N′-benzyloxycarbonyl-L-lysine anhydride | C(=O)(O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC([C@@H](NC(=O)O)CCCCNC(=O)OCC1=CC=CC=C1)=O | C30H38N4O11
product | poly-L-alanine L-lysine | C[C@@H](C(=O)O)N.N[C@@H](CCCCN)C(=O)O | InChI=1S/C6H14N2O2.C3H7NO2/c7-4-2-1-3-5(8)6(9)10;1-2(4)3(5)6/h5H,1-4,7-8H2,(H,9,10);2H,4H2,1H3,(H,5,6)/t5-;2-/m00/s1
